US06297257B1
Synthesis of 2-(5-Phenylpentyloxy)-1-methoxy-3-(2-nitro-vinyl)-benzene
Operating analogously to example 2 using 2-(5-phenylpentyloxy)-3-methoxy-benzaldehyde (1 g, 3.35 mmoles), obtained as described in example 12, 8.03M methylamine in ethanol (0.088 ml, 0.7035 mmoles), acetic acid (0.04 ml, 0.7035 mmoles) and nitromethane (0.198 ml, 3.685 mmoles) in methanol (5 ml), 0.56 g of the title product was obtained (yield: 49%).

reactant | 2-(5-phenylpentyloxy)-3-methoxy-benzaldehyde | 3.35 mmoles, 1 g | C1(=CC=CC=C1)CCCCCOC1=C(C=O)C=CC=C1OC | C19H22O3
reactant | methylamine | 8.03M | CN | CH5N
reactant | ethanol | 0.7035 mmoles, 0.088 ml | C(C)O | C2H6O
reactant | acetic acid | 0.7035 mmoles, 0.04 ml | C(C)(=O)O | C2H4O2
reactant | nitromethane | 3.685 mmoles, 0.198 ml | [N+](=O)([O-])C | CH3NO2
solvent | methanol | 5 ml | CO | CH4O
product | 2-(5-Phenylpentyloxy)-1-methoxy-3-(2-nitro-vinyl)-benzene | 0.56 g, yield: 49% | C1(=CC=CC=C1)CCCCCOC1=C(C=CC=C1C=C[N+](=O)[O-])OC | C20H23NO4
